US06794395B1
(35) 3-(Z)-{1-[4-(N-acetylamino)-anilino]-1-ethyl-methylidene}-5,6-dimethoxy-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-ethyl-methylidene)-5,6-dimethoxy-2-indolinone and N-acetyl-p-phenylenediamine

reactant | 1-acetyl-3-(1-ethoxy-1-ethyl-methylidene)-5,6-dimethoxy-2-indolinone | C(C)(=O)N1C(C(C2=CC(=C(C=C12)OC)OC)=C(CC)OCC)=O | C17H21NO5
reactant | N-acetyl-p-phenylenediamine | C(C)(=O)NC1=CC=C(C=C1)N | C8H10N2O
product | 3-(Z)-{1-[4-(N-acetylamino)-anilino]-1-ethyl-methylidene}-5,6-dimethoxy-2-indolinone | C(C)(=O)NC1=CC=C(N\C(\CC)=C\2/C(NC3=CC(=C(C=C23)OC)OC)=O)C=C1 | C21H23N3O4
